US04474785
5.22 g (0.02 mole) of cis-2-(indolin-2-on-5-oyl)cyclobutanecarboxylic acid are refluxed with 1.1 g (0.022 mole) of hydrazine hydrate and 50 ml of ethanol for 11 hours. The solid is filtered off with suction at room temperature and recrystallized from dimethylformamide/water to give 4.7 g (92%) of 2-(indolin-2-on-5-yl)-3,4-diazabicyclo[4.2.0]oct-2-en-5-one of melting point 309°-312° C.

reactant | cis-2-(indolin-2-on-5-oyl)cyclobutanecarboxylic acid | 0.02 mole, 5.22 g | N1C(CC2=CC(=CC=C12)C(=O)[C@@H]1[C@@H](CC1)C(=O)O)=O | C14H13NO4
reactant | hydrazine hydrate | 0.022 mole, 1.1 g | O.NN
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2-(indolin-2-on-5-yl)-3,4-diazabicyclo[4.2.0]oct-2-en-5-one | 4.7 g, 92% | N1C(CC2=CC(=CC=C12)C=1C2CCC2C(NN1)=O)=O | C14H13N3O2
